* C:\users\crossover\Desktop\My Mac Desktop\SCHOOL WORK\Imperial College London\EEE\Year 1\Project\electronicsdesignproject\Draft1.asc
V1 N001 0 20
Q1 N002 N005 N006 0 NPN
R1 N001 N002 10k
R2 N006 0 1k
R3 N001 N005 240k
R4 N005 0 22k
V2 N004 0 AC 5 30
C1 N005 N004 100µ
C2 N003 N002 100µ
R5 N003 0 5k
.model NPN NPN
.model PNP PNP
.lib C:\users\crossover\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 10 0.001 100k
;op
.backanno
.end
